US07071365B2
A mixture of 5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binapthol (48 g), phosphotungstic acid (2.4 g) and cyclopentene (58 g) was charged into a Hastelloy reactor. The reactor was heated to 180 C for 40 hours. The mixture was purified by column chromatography (silica gel, eluting with 2% ethyl acetate/hexane) to yield 29.5 g (42%) of 3,3′-dicyclopentyl-5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binapthol, mp 143–152° C. 13C NMR (CDCl3): 22.96, 25.31, 26.68, 29.19, 32.72, 32.75, 39.20, 118.58, 128.14, 129.20, 129.74, 133.91, 149.14 ppm. 1H NMR (CDCl3): 1.60 (m, 10H), 2.0 (d, 4H), 2.65 (t, J=4 Hz, 2H), 3.27 (quintet, J=7 Hz, 1H), 4.55 (s, 1H), 6.92 (s, 1H) ppm.

reactant | 5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binapthol | 48 g | C=1(C(=CC=C2CCCCC12)C1=CC=2CCCCC2C=C1)O | C20H22O
reactant | cyclopentene | 58 g | C1=CCCC1 | C5H8
catalyst | phosphotungstic acid | 2.4 g | O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.P.[W].[W].[W].[W].[W].[W].[W].[W].[W].[W].[W].[W]
product | 3,3′-dicyclopentyl-5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binapthol | 29.5 g, 42% | C1(CCCC1)C1=C(C(=C2CCCCC2=C1)O)C1=CC=2CCCCC2C=C1C1CCCC1 | C30H38O
